US04625047
Preparation of [2,3-dichloro-4-(6-methyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid
To a stirred solution of sodium methoxide (2.0 g, 0.037 mole) in ethanol (60 ml) and ethyl acetoacetate (4.86 ml) was added [2,3-dichloro-4-(2-methylene-1-oxopropyl)phenoxy]acetic acid (4.8 g, 0.017 mole). The reaction mixture was heated at reflux for 3 hours then the solvent was distilled at reduced pressure. The residue was dissolved in water, acidified with hydrochloric acid, extracted with ether, washed with water, extracted in sodium bicarbonate and acidified to get a precipitate which was filtered, rinsed with water, dried, and recrystallized from 500 ml toluene to give 2,3-dichloro-4-(6-methyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid which melted at 185° C.

reactant | sodium methoxide | 0.037 mole, 2.0 g | C[O-].[Na+]
reactant | [2,3-dichloro-4-(2-methylene-1-oxopropyl)phenoxy]acetic acid | 0.017 mole, 4.8 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(C(C)=C)=O | C12H10Cl2O4
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | ethyl acetoacetate | 4.86 ml | C(CC(=O)C)(=O)OCC | C6H10O3
product | [2,3-dichloro-4-(6-methyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C1=CC(CCC1C)=O | C15H14Cl2O4
